* C:\Users\piate\Documents\GitHub\Universal_charger\LTspice\potwornica.asc
CC vc in 1µ
L1 sw out 47µ
D1 0 sw MBRB2545CT
XU1 0 fb sw vc in XL4016
Cout out 0 10µ
R1 out ref 9K
R2 ref 0 1K
R_load N004 0 100
V1 in 0 30
V2 N011 0 1
V3 out N004 V
XU2 N014 N007 12v 0 N007 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU3 N017 N009 12v 0 N010 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R9 N014 N013 4.3k
R10 0 N014 820
V4 N013 0 4
R11 N017 0 5k
R12 N017 N016 10k
R13 N009 N007 10k
R14 N010 N009 5k
V5 N016 0 3.3
V6 12v 0 12
XU4 N010 N015 12v 0 N006 LT1001
V7 N018 0 1.65
H1 N015 N018 V3 -0.066
D2 N005 fb D
D3 N008 fb D
R3 N008 N012 400
XU5 ref N011 12v 0 N012 LT1001
XU6 0 fb N002 N003 in XL4016
XU7 0 fb N001 P001 in XL4016
CC2 P001 in 1µ
D4 0 N002 MBRB2545CT
D5 0 N001 MBRB2545CT
L2 N002 out 47µ
L3 N001 out 47µ
CC1 N003 in 1µ
R4 fb 0 100
R5 N006 N005 400
.model D D
.lib C:\Users\piate\AppData\Local\LTspice\lib\cmp\standard.dio
* 8A
.tran 10m
* Second output cap not needed\nin the simulation, because of\n ideal 1000uF cap
;.step param vp list 2.7 2.4 2.1 1.8 1.5 1.2 0.9
.lib LTC.lib
.lib UniversalOpAmp1.lib
.lib XL4016.cir
.backanno
.end
