* C:\Users\piate\Documents\GitHub\Universal_charger\LTspice\potwornica.asc
CC vc in 1µ
L1 sw out 47µ
D1 0 sw MBRB2545CT
XU1 0 fb sw vc in XL4016
Cout out 0 660µ
R1 out ref 10k
R2 ref 0 1.2k
R_load N003 0 10
V1 in 0 30
V2 N008 0 2
V3 out N003 V
XU2 N011 N005 12v 0 N005 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU3 N014 N006 12v 0 N007 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R9 N011 N010 10k
R10 0 N011 5.1k
V4 N010 0 0.4
R11 N014 0 3.2k
R12 N014 N013 10k
R13 N006 N005 10k
R14 N007 N006 3.2k
V5 N013 0 5v
V6 12v 0 12
XU4 N007 N012 12v 0 N004 LT1001
V7 N015 0 1.65
H1 N012 N015 V3 -0.066
D2 N004 fb D
D3 N009 fb D
XU5 ref N008 12v 0 N009 LT1001
XU6 0 fb N001 N002 in XL4016
D4 0 N001 MBRB2545CT
L2 N001 out 47µ
CC1 N002 in 1µ
.model D D
.lib C:\Users\piate\AppData\Local\LTspice\lib\cmp\standard.dio
* 8A
.tran 10m
* Second output cap not needed\nin the simulation, because of\n ideal 1000uF cap
;.step param vp list 2.7 2.4 2.1 1.8 1.5 1.2 0.9
.lib LTC.lib
.lib UniversalOpAmp1.lib
.lib XL4016.cir
.backanno
.end
